US05629254
Synthesis of 2-ethyl-4-phenylindene
A 300-ml four-necked round flask equipped with a stirring bar, a dropping funnel and a thermometer was charged with 9.78 g (41.3 mmol) of 2-ethyl-1-hydroxy-4-phenylindane, 17.2 ml (123.8 mmol) of triethylamine, 0.25 g (2.1 mmol) of 4-dimethylaminopyridine and 98 ml of methylene chloride. To the mixture was dropwise added a solution containing 6.4 ml (82.5 mmol) of methanesulfonyl chloride dissolved in 6.5 ml of methylene chloride under a nitrogen atmosphere at 0° C. After the addition was completed, the reaction mixture was stirred for 3.5 hours at this temperature. The reaction mixture was poured onto 250 ml of ice-water. Then, the organic phase was separated and the aqueous phase was further extracted with 50 ml of methylene chloride two times. The combined organic phase was washed with a saturated aqueous solution of NaHCO3, and then a saturated aqueous solution of sodium chloride, followed by drying over anhydrous Na2SO4. The solvent was evaporated under reduced pressure. The residue was chromatographed on silica gel (eluting with hexane) to obtain 6.56 g of the desired product as a pale yellow liquid (mixture of two kinds of isomers)(yield: 73%).

reactant | 2-ethyl-1-hydroxy-4-phenylindane | 41.3 mmol, 9.78 g | C(C)C1C(C2=CC=CC(=C2C1)C1=CC=CC=C1)O | C17H18O
reactant | triethylamine | 123.8 mmol, 17.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 82.5 mmol, 6.4 ml | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 2.1 mmol, 0.25 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 6.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 98 ml | C(Cl)Cl | CH2Cl2
product | 2-ethyl-4-phenylindene | 6.56 g, yield: 73% | C(C)C=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C17H16
